US06339045B1
Production of N-methoxy-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-97)
0.4 g (0.00128 mol) of 4-methoxy-6-{3-(trifluoromethyl)phenoxy)-2-pyridine carboxylic acid was mixed with 0.3 g (0.00128×2.0 mol) of thionyl chloride and then with about 10 ml of benzene and a small amount of DMF, followed by treating the obtained mixture under reflux for about 30 minutes. The reaction solution was concentrated and mixed with methylene chloride and then with 0.21 g (0.00128×2.0 mol) of methoxylamine hydrochloride and 0.33 g (0.00128×2.5 mol) of triethyl amine, followed by stirring at room temperature for about one hour. The reaction solution was distributed in ethyl acetate-saturated sodium bicarbonate water, and washed with saturated brine. The organic phase of the solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-methoxy-6-{3-(trifluoromethyl)phenoxy)-2-pyridine carboxylic acid | 0.00128 mol, 0.4 g | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H10F3NO4
reactant | thionyl chloride | 2.0 mol, 0.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | methoxylamine hydrochloride | 2.0 mol, 0.21 g | Cl.O(C)N
reactant | triethyl amine | 2.5 mol, 0.33 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | about 10 ml | C1=CC=CC=C1 | C6H6
product | N-methoxy-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | CONC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C15H13F3N2O4
